US09062092B2
A solution of (S)-1-{(S)-2-[(S)-2-(2-{(E)-2-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-[1,4]dioxane-2-carbonyloxy)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (69 mg, 0.081 mmol) in tetrahydrofuran (4 mL) was stirred at 0° C. under nitrogen. An ice-cold aqueous solution of sodium hydroxide (0.1 M, 0.82 mL, 0.082 mmol) was added and the reaction mixture was stirred at 0° C. for 20 minutes. Cold 1 M hydrochloric acid was added to acidify the mixture to pH 2 and the solvent was evaporated. The residue was co-evaporated with tetrahydrofuran/toluene (1:1, 3×) and the residue was triturated with diethyl ether (2×) and the resulting solid was dried to afford (S)-1-{(S)-2-[(S)-2-(2-{(E)-2-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-[1,4]dioxane-2-carbonyloxy)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid (0.081 mmol) as a yellow solid and as a 1:1 mixture of diastereoisomers which was used crude in the next reaction. LCMS (m/z) 712.3 [M+H], Tr=2.46 min.

reactant | (S)-1-{(S)-2-[(S)-2-(2-{(E)-2-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-[1,4]dioxane-2-carbonyloxy)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 0.081 mmol, 69 mg | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)OC(=O)C1(OCCOC1)\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)OC(C)(C)C)=O)=O)(Cl)Cl | C38H50Cl3N5O10
reactant | sodium hydroxide | 0.082 mmol, 0.1 M, 0.82 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | (S)-1-{(S)-2-[(S)-2-(2-{(E)-2-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-[1,4]dioxane-2-carbonyloxy)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid | 0.081 mmol | C(C)(C)(C)OC(=O)N[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C1(OCCOC1)C(=O)O[C@H](C(=O)N[C@H](C(=O)N1N[C@@H](CCC1)C(=O)O)C)C(C)C | C36H49N5O10
